* source PROJECT4
V_V1         VCC 0 12Vdc
R_R1         N00167 VCC  2k TC=0,0 
R_R2         0 N00167  10k TC=0,0 
C_C1         0 N00167  1u  TC=0,0 
C_C2         0 N00415  1n  TC=0,0 
V_V2         N08043 0 11Vdc
R_R3         N01127 VCC  1500k TC=0,0 
R_R4         N09487 VCC  1k TC=0,0 
M_M1         N09487 0 N01127 N01127 IRF123
X_Q7         N00415 N26891 N51215 BFG135/PLP 
X_Q8         VCC N53208 N51215 BFG135/PLP 
X_U5         N08043 N01127 VCC 0 N01016 OPA2156
X_Q11         N00415 N01016 N01127 BFT93/INF
X_D4         N00415 N00167 BAT54/PLP
D_D6         0 N00167 BZX84C9V1/PLP 
V_V4         N26891 0  
+PULSE 5V 5.40V 2.5u 200p 200p 50n 4u
V_V5         N53208 0  
+PULSE 5.40V 5V 2.5u 400p 400p 50n 4u
X_U6         N00415 N32736 VCC 0 N32736 OPA659
X_Q5         N51215 N51253 N51259 BFG135/PLP 
X_U1         VBIAS1 N51259 VCC 0 N51253 OPA2156
R_R5         0 N51259  230 TC=0,0 
V_V6         VBIAS1 0 4.6Vdc
R_R7         N54279 0  100k TC=0,0 
R_R8         N54279 N54189  10k TC=0,0 
R_R6         N51215 N54189  1000k TC=0,0 
X_U7         N51215 N54279 VCC 0 N54189 OPA2156
