* source TEST
V_V1         VCC 0 12Vdc
V_V2         VBIAS1 0 4Vdc
X_U1         VBIAS1 N02510 VCC 0 N02460 OPA2156
R_R1         VBIAS1 N02460  100k TC=0,0 
R_R2         N02510 N02460  1k TC=0,0 
R_R3         N02510 0  100k TC=0,0 
